US09290451B2
a) 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid
In a 25 mL round-bottomed flask, 5-bromo-6-chloropicolinic acid (433 mg, 1.83 mmol) and powdered potassium hydroxide (411 mg, 7.32 mmol) were combined with DMSO (1.9 ml) to give a colorless solution which was stirred at room temperature for 15 min. 2,2,2-trifluoroethanol (275 mg, 198 μl, 2.75 mmol, Eq: 1.5) was added. The reaction mixture was stirred for 24 h at ambient temperature. Since the reaction was complete, 0.75 extra equivalents of 2,2,2-trifluoroethanol was added and the reaction was stirred 48 h at ambient temperature. The reaction mixture was poured onto 1 M HCl/ice water (1×20 mL), extracted with iPrOAc (2×25 mL). The organic layers were dried over Na2SO4 and filtered, removed under reduced pressure to give the title compound as a white solid after recrystallization from CH2Cl2 and heptane (409 mg, 1.36 mmol, 74.4% yield), MS (EI): m/e=299.9 [M+H]+.

reactant | 5-bromo-6-chloropicolinic acid | 1.83 mmol, 433 mg | BrC=1C=CC(=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | potassium hydroxide | 7.32 mmol, 411 mg | [OH-].[K+]
reactant | 2,2,2-trifluoroethanol | 2.75 mmol, 198 μl, 275 mg | FC(CO)(F)F | C2H3F3O
solvent | DMSO | 1.9 ml | CS(=O)C | C2H6OS
product | 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid | BrC=1C=CC(=NC1OCC(F)(F)F)C(=O)O | C8H5BrF3NO3
